US04257805
the formanilide is treated with a one-molar equivalent of sodium hydride in dimethylformamide and the resulting solution of the sodium salt is treated with 2-chloro-5-nitrobenzotrifluoride (U.S. Pat. No. 3,657,350) at an elevated temperature (e.g., 155° C., reflux), to give the 4-nitrodiphenylamine (J. Organic Chemistry, 42, 1786 (1977) and references therein).

reactant | formanilide | C(=O)NC1=CC=CC=C1 | C7H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2-chloro-5-nitrobenzotrifluoride | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-nitrodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H10N2O2
